US07030116B2
N-[(S)-1-(Benzoxazole-2-carbonyl)-butyl]-4-morpholin-4-yl-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyramide
It is similarly prepared according to general procedure given for example 10 above but using 4-Morpholin-4-yl-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyric acid and (S)-2-Amino-1-benzoxazol-2-yl-pentan-1-ol.

reactant | 4-Morpholin-4-yl-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyric acid | N1(CCOCC1)C(CC(C(=O)O)CC1C(C1)C1=CC=CC=C1)=O | C18H23NO4
reactant | (S)-2-Amino-1-benzoxazol-2-yl-pentan-1-ol | NC([C@H](O)C=1OC2=C(N1)C=CC=C2)CCC | C12H16N2O2
product | N-[(S)-1-(Benzoxazole-2-carbonyl)-butyl]-4-morpholin-4-yl-4-oxo-2-(2-phenyl-cyclopropylmethyl)-butyramide | O1C(=NC2=C1C=CC=C2)C(=O)[C@H](CCC)NC(C(CC(=O)N2CCOCC2)CC2C(C2)C2=CC=CC=C2)=O | C30H35N3O5
